US07320993B1
3-Pyridin-3-yl-N-[6-(tosylamino)-hexyl]-acrylamide (Substance 310)
Batch size: 4.1 g (27.5 mmol) 3-(3-pyridyl)-acrylic acid, 4.7 g (37.0 mmol) oxalyl chloride, 5.0 g (49.4 mmol) TEA and 8.6 g (25.0 mmol) 6-(tosylamino)-hexylamine.dihydrochloride.

reactant | 3-(3-pyridyl)-acrylic acid | 27.5 mmol, 4.1 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 37.0 mmol, 4.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(tosylamino)-hexylamine.dihydrochloride | 25.0 mmol, 8.6 g | Cl.Cl.S(=O)(=O)(C1=CC=C(C)C=C1)NCCCCCCN
product | 3-Pyridin-3-yl-N-[6-(tosylamino)-hexyl]-acrylamide | N1=CC(=CC=C1)C=CC(=O)NCCCCCCNS(=O)(=O)C1=CC=C(C)C=C1 | C21H27N3O3S
